US07592358B2
32.1d. {6-[5-(4-chlorophenyl)pyridin-2-ylethynyl]-4-methylquinolin-2-yl}methanol
The product was obtained analogously to Example 7.1 e starting from (6-iodo-4-methylquinolin-2-yl)methanol and 5-(4-chlorophenyl)-2-ethynylpyridine. Yield: 50 mg (19% of theoretical); C24H17ClN2O (M=384.857); calc.: molpeak (M+H)+: 385/387 (Cl); found: molpeak (M+H)+: 385/387 (Cl); HPLC-MS: 5.50 minutes (method B).

reactant | (6-iodo-4-methylquinolin-2-yl)methanol | IC=1C=C2C(=CC(=NC2=CC1)CO)C | C11H10INO
reactant | 5-(4-chlorophenyl)-2-ethynylpyridine | ClC1=CC=C(C=C1)C=1C=CC(=NC1)C#C | C13H8ClN
product | {6-[5-(4-chlorophenyl)pyridin-2-ylethynyl]-4-methylquinolin-2-yl}methanol | ClC1=CC=C(C=C1)C=1C=CC(=NC1)C#CC=1C=C2C(=CC(=NC2=CC1)CO)C | C24H17ClN2O
